US08629270B2
Benzyl 6a-(2-thienyl)-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole-5-carboxylate
A −78° C. solution of thiophene (17 g, 203 mmol) in tetrahydrofuran (250 mL) under nitrogen is treated drop wise with a solution of n-butyl lithium (81 mL, 203 mmol, 1.6 M in hexanes) and the reaction is stirred at −78° C. for 10 minutes. In a separate flask, a −78° C. solution of benzyl 3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-5-carboxylate (25 g, 101 mmol) in tetrahydrofuran (500 mL) under nitrogen is treated with boron trifluoride ether complex (19 mL, 152 mmol) and the mixture is stirred for 10 minutes. The solution is added by cannula to the organolithium solution generated above at −78° C. and the resulting mixture is stirred for 1 hour at −78° C. The reaction is quenched with saturated ammonium chloride and warmed to room temperature. The aqueous layer is separated, the organic layer is dried over magnesium sulfate and the solvent is removed under vacuum. The crude product is purified over silica gel using a 5 to 50% gradient of ethyl acetate/hexanes gradient to give the title compound (22 g, 65%). ES/MS (m/e): 331 (M+H).

reactant | thiophene | 203 mmol, 17 g | S1C=CC=C1 | C4H4S
reactant | n-butyl lithium | 203 mmol, 1.6 M, 81 mL | C(CCC)[Li]
reactant | benzyl 3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-5-carboxylate | 101 mmol, 25 g | N=1OCC2C1CN(C2)C(=O)OCC2=CC=CC=C2 | C13H14N2O3
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | Benzyl 6a-(2-thienyl)-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole-5-carboxylate | 22 g, 65% | S1C(=CC=C1)C12NOCC1CN(C2)C(=O)OCC2=CC=CC=C2 | C17H18N2O3S
